US04130715
In a manner similar to that of Example 1 (C), 5.00 g (29.2 mmol) of 1,5,9-triazacyclododecane and 3.48 g of dimethylformamide dimethyl acetal were reacted to give 3.87 g of 1,5,9-triazatricyclo[7.3.1.05,13 ]tridecane as a clear, colorless liquid, bp 93° (three fractions) (0.35 mm), which solidified on standing at room temperature. One fraction was analyzed.

reactant | 1,5,9-triazacyclododecane | 29.2 mmol, 5.00 g | N1CCCNCCCNCCC1 | C9H21N3
reactant | dimethylformamide dimethyl acetal | 3.48 g | COC(N(C)C)OC | C5H13NO2
product | 1,5,9-triazatricyclo[7.3.1.05,13 ]tridecane | 3.87 g | N12CCCN3CCCN(CCC1)C23 | C10H19N3
